US04267176
1 N Sodium hydroxide solution (8.5 ml.) was added to a stirred solution of ethyl 2-(6-formamidopyridin-2-yl)-glyoxylate (1.9 g.) in ethanol (30 ml.) at room temperature and stirred at the same temperature for 30 minutes. After adding ethoxylamine hydrochloride (912 mg.) to the solution, the solution was stirred at room temperature for 4 hours. The resultant solution was concentrated under reduced pressure, and ethyl acetate and an aqueous solution of sodium bicarbonate were added to the residue. The aqueous layer was separated and ethyl acetate was added to the solution. The solution was adjusted to pH 1 with 10% hydrochloric acid. The ethyl acetate layer was separated, dried over magnesium sulfate and concentrated under reduced pressure. The residue was triturated with a mixture of diethyl ether and petroleum ether to give 2-(6-formamidopyridin-2-yl)-2-ethoxyiminoacetic acid (920 mg.), mp 155° to 156° C. (dec.).

reactant | Sodium hydroxide | 1 N, 8.5 ml | [OH-].[Na+]
reactant | ethyl 2-(6-formamidopyridin-2-yl)-glyoxylate | 1.9 g | C(=O)NC1=CC=CC(=N1)C(C(=O)OCC)=O | C10H10N2O4
reactant | ethoxylamine hydrochloride | 912 mg | Cl.O(CC)N
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-(6-formamidopyridin-2-yl)-2-ethoxyiminoacetic acid | 920 mg | C(=O)NC1=CC=CC(=N1)C(C(=O)O)=NOCC | C10H11N3O4
